US04906284
A stirred solution of 0.5 g (0.002 mole) of 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-(3-fluoropropyl)-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one, 0.43 g (0.004 mole) of propargyl bromide and 0.33 g (0.002 mole) of potassium carbonate in 20 mL of acetone was heated under reflux for 5 hours. The reaction mixture was cooled to ambient temperature and filtered. The filtrate was concentrated under reduced pressure to a residual oil. The residual oil was subjected to column chromatography on silica gel using 4:1 methylene chloride:heptane as an eluant. The appropriate fractions were combined and concentrated under reduced pressure to give 0.42 g of 1-(4-chloro-2-fluoro-5-propargyloxyphenyl)-4-(3-fluoropropyl)-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one as an oil.

reactant | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-(3-fluoropropyl)-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.002 mole, 0.5 g | ClC1=CC(=C(C=C1O)N1N=C(N(C1=O)CCCF)C)F | C12H12ClF2N3O2
reactant | propargyl bromide | 0.004 mole, 0.43 g | C(C#C)Br | C3H3Br
reactant | potassium carbonate | 0.002 mole, 0.33 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 1-(4-chloro-2-fluoro-5-propargyloxyphenyl)-4-(3-fluoropropyl)-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.42 g | ClC1=CC(=C(C=C1OCC#C)N1N=C(N(C1=O)CCCF)C)F | C15H14ClF2N3O2
